US04271160
3.35 g of N-(2-chloro-ethyl)-2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)-propylamine was dissolved in 40 ml of anhydrous THF at -10° C. At this temperature, slow dropwise addition was made to the mixture of 6.07 ml of 15% butyl lithium in hexane. After approximately 2 hours at -10° C. the temperature was slowly allowed to return to room temperature and the whole was stirred for another 20 hours in these conditions, and then concentrated to dryness. The residue was dissolved in ethyl ether, filtered and the filtrate again concentrated to dryness. The residue was converted to the hydrochloride by treatment with gaseous HCl in ethyl ether. After three crystallizations from a mixture of isopropanol and a very small quantity of ethyl ether, there was obtained 1.2 g of 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine hydrochloride, melting point 112°-170° C. (Yield 35.7%) as a mixture of diastereoisomers. By means of chromatographic separation, as described in Examples 42 and 44, there were obtained two distinct diastereoisomers having melting point of 211°-214° C. and 175°-178° C. respectively.

reactant | N-(2-chloro-ethyl)-2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)-propylamine | 3.35 g | ClCCNCC(C(OC1=C(C=CC=C1)OC)C1=CC=CC=C1)O | C18H22ClNO3
reactant | butyl lithium | 6.07 ml | C(CCC)[Li]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 2-[α-(2-methoxy-phenoxy)-benzyl]-morpholine hydrochloride | 1.2 g, Yield 35.7% | Cl.COC1=C(OC(C2=CC=CC=C2)C2CNCCO2)C=CC=C1 | InChI=1S/C18H21NO3.ClH/c1-20-15-9-5-6-10-16(15)22-18(14-7-3-2-4-8-14)17-13-19-11-12-21-17;/h2-10,17-19H,11-13H2,1H3;1H
